### ISSUE TITLE
linear_combination for inequalities

### ISSUE THREAD

**Issue by PatrickMassot** [leanprover-community/mathlib4#4836]
Currently linear_combination cannot be used for inequalities, it would be nice to fix this. Test case would include:
```lean
example (x y : ℝ) (h : x < y) : 0 < y - x := by linear_combination h
example (ε : ℝ) (h : 0 < ε) : 0 < ε / 2 := by linear_combination h / 2

example (x y : ℝ) : 0 ≤ x ^ 2 + x * y + y ^ 2 := by
  have h₁ : 0 ≤ (x - y) ^ 2 := by positivity
  have h₂ : 0 ≤ (x + y) ^ 2 := by positivity
  linear_combination h₁ / 4 + 3 * h₂ / 4
```
And there are extra credit if it can do
```lean
example (a b x : ℝ) (h : a ≤ b) : x ^ 2 * a ≤ x ^ 2 * b := by linear_combination x ^ 2 * h
```
calling `positivity` to ensure the `x^2` coefficient is non-negative.

Somehow there should already be relevant code in the `linarith` frontend.

**Comment by hrmacbeth** [comment]
cc @robertylewis who has thought a lot about this.

**Comment by grunweg** [comment]
@hrmacbeth Thanks a lot for your work on this! Is there anything left to do here?

**Comment by hrmacbeth** [comment]
I think not!
